US04107308
4-(Methylthio)-imidazo[1,5-d]-as-triazine
To 1.52 gm. of imidazo[1,5-d]-as-triazine-4(3H)-thione in 25 ml. of ethanol is added 0.54 gm. of sodium methoxide. Then 0.63 ml. of methyl iodide is added and the mixture is stirred and heated under reflux for 80 minutes. The mixture is cooled to 0° C. giving a precipitate which is collected. This product is recrystallized from 25 ml. of methanol and treated with charcoal giving the desired product, m.p. 186°-190° C.

reactant | imidazo[1,5-d]-as-triazine-4(3H)-thione | C=1C=2N(C(NN1)=S)C=NC2 | C5H4N4S
reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | ethanol | C(C)O | C2H6O
product | 4-(Methylthio)-imidazo[1,5-d]-as-triazine | CSC1=NN=CC=2N1C=NC2 | C6H6N4S
